US04962161
α,α'-bis-(2-propenylphenoxy)-meta-xylene is prepared in a process similar to Example I, except that 383 grams (2.86 mole) of propenylphenol is employed along with 250 grams (1.43 moles) of α,α'-dichloro-meta-xylene to give a reaction product extracted with methylene chloride, washed with potassium hydroxide and dried over magnesium sulfate, then vaccum distilled at 80° C. to yield 407 grams of a viscous liquid (80% yield).

reactant | propenylphenol | 2.86 mole, 383 grams | C(=CC)C1=C(C=CC=C1)O | C9H10O
reactant | α,α'-dichloro-meta-xylene | 1.43 moles, 250 grams | ClCC1=CC(=CC=C1)CCl | C8H8Cl2
product | α,α'-bis-(2-propenylphenoxy)-meta-xylene | C(=CC)C1=C(OCC2=CC(=CC=C2)COC2=C(C=CC=C2)C=CC)C=CC=C1 | C26H26O2
